US06197798B1
A suspension of 111.1 g of (R)-5-bromo-2-aminoindane (1S)-(+)-10-camphorsulfonate salt and 300 mL of isopropyl acetate is stirred at 20-25° C. and a solution of 15.0 g of sodium hydroxide and 75.0 g of sodium chloride in 300 mL of water is added over a period of 10 minutes while maintaining an internal temperature at 20 to 25° C. The suspension is stirred for 30 minutes or until all the solids dissolve. The organic layer is separated and the aqueous layer is extracted with 100 mL of isopropyl acetate. The organic layers containing (R)-5-bromo-2-aminoindane free base are combined. A solution of 60 g of sodium bicarbonate in 600 mL of water is added and the resulting white slurry is stirred under nitrogen and cooled to a temperature of 0-5° C. over a period of 15 minutes. A solution of 35.4 g of methyl chloroformate in 200 mL of isopropyl acetate is added over a period of 45 minutes while maintaining an internal temperature of 0-5° C. and the mixture is stirred at this temperature for an additional 1 hour. The organic layer is separated and washed with 150 mL of 1 N sulfuric acid is added, then with a solution of 10 g of sodium bicarbonate in 100 mL of deionized water and finally with 150 mL of deionized water. The organic layer is concentrated under vacuum (100-300 torr) at a temperature of 40-50° C. to ˜150 mL of a slurry. Heptane (500 mL) is added and the mixture is again concentrated under vacuum (100-200 torr) at a temperature of 40-50° C. to about 300 mL of a slurry. Heptane (500 mL) is again added and the mixture is cooled to an internal temperature of 0-5° C. The solid is collected and washed with 40 mL of heptane in two equal portions of 20 mL each. The solid is dried at 60-65° C. under vacuum (10-30 torr) to obtain (R)-(5-bromoindan 2-yl)-carbamic acid methyl ester as a crystalline white solid.

reactant | (R)-5-bromo-2-aminoindane (1S)-(+)-10-camphorsulfonate salt | 111.1 g | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.BrC=2C=C1C[C@@H](CC1=CC2)N
reactant | isopropyl acetate | 300 mL | C(C)(=O)OC(C)C | C5H10O2
reactant | sodium hydroxide | 15.0 g | [OH-].[Na+]
reactant | sodium chloride | 75.0 g | [Cl-].[Na+]
solvent | water | 300 mL | O | H2O
product | (R)-(5-bromoindan 2-yl)-carbamic acid methyl ester | COC(N[C@@H]1CC2=CC=C(C=C2C1)Br)=O | C11H12BrNO2
